US07550484B2
To a solution of 2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-5-methoxymethyl-benzoic acid methyl ester (0.191 g, 0.42 mmol) in THF (8 mL) was added LiBH4 (89 mg, 4.07 mmol) and the mixture was heated to reflux for 3 hours then cooled to room temperature. The mixture was diluted with 1.0 N NaOH (5 mL) and extracted with CH2Cl2 (5×15 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by radial chromatography on silica gel (1 mm plate, 20:1:1 CH2Cl2—CH3OH—NH4OH) gave 153 mg (83%) of [2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-5-methoxymethyl-phenyl]-methanol as a white solid. 1H NMR (CDCl3) δ 1.61-1.73 (m, 3H), 2.02-2.14 (m, 1H), 2.29-2.42 (m, 2H), 2.50 (s, 6H), 3.19 (s, 3H), 3.65 (s, 2H), 4.03 (d, 2H, J=10.8 Hz), 4.17 (s, 2H), 4.35 (s, 2H), 5.09 (br s, 1H), 6.63 (d, 1H, J=7.5 Hz), 6.74 (d, 1H, J=7.5 Hz), 6.82-6.86 (m, 3H), 7.23 (d, 2H, J=7.2 Hz), 8.22 (d, 2H, J=3.6 Hz); 13C NMR (CDCl3) δ 19.44, 25.66, 30.06, 54.39, 57.89, 62.89, 67.47, 74.45, 122.08, 126.07, 128.95, 129.20, 131.76, 136.26, 138.42, 139.05, 146.82, 160.11; ES-MS m/z 432 (M+H). Anal. Calcd. For C27H33N3O2.0.6H2O: C, 73.31; H, 7.79; N, 9.50. Found: C, 73.20; H, 7.60; N, 9.36.

reactant | 2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-5-methoxymethyl-benzoic acid methyl ester | 0.42 mmol, 0.191 g | COC(C1=C(C=CC(=C1)COC)CN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C)=O | C28H33N3O3
reactant | LiBH4 | 4.07 mmol, 89 mg | [Li+].[BH4-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1.0 N, 5 mL | [OH-].[Na+]
product | [2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-5-methoxymethyl-phenyl]-methanol | 153 mg, 83% | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CC1=C(C=C(C=C1)COC)CO | C27H33N3O2
